US07700598B2
117g (R)-1-carboxy-2-(4-hydroxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
220 mg 10% Pd/C were added to a solution of 2.2 g (4.1 mmol) of (R)-1-carboxy-2-(4-benzyloxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 450 mg (4.4 mmol) triethylamine in 90 mL MeOH and the reaction mixture was hydrogenated at 3 bar H2 for 24 h. The catalyst was filtered, washed twice with MeOH and the filtrate was evaporated down i.vac. The residue was taken up in 20 mL water and adjusted to pH 2-3 with 10% HCl. The precipitate formed was filtered, washed with a little water and dried at 50° C.

reactant | (R)-1-carboxy-2-(4-benzyloxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 4.1 mmol, 2.2 g | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C=CC=C2 | C31H33N3O6
reactant | triethylamine | 4.4 mmol, 450 mg | C(C)N(CC)CC | C6H15N
solvent | MeOH | 90 mL | CO | CH4O
catalyst | Pd/C | 220 mg | [Pd] | Pd
product | (R)-1-carboxy-2-(4-hydroxy-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC=C(C=C1)O)C(=O)O)C=CC=C2 | C24H27N3O6
